US04291034
A mixture of 3.25 g of 2-nitrobenzaldehyde and 5.5 g of 5-(3,4-dichlorophenyl)-1,3-cyclohexanedione in 20 ml of glacial acetic acid and 20 ml of concentrated hydrochloric acid is heated at 80° C. for 0.5 hr, cooled and poured into 300 ml of water. The solid is digested in hot methanol and dried in vacuo to give 7-chloro-3-(3,4-dichlorophenyl)-3,4-dihydro-10-hydroxy-1,9(2H,-10H)-acridinedione; mp 268°-269° C. (dec).

reactant | 2-nitrobenzaldehyde | 3.25 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 5-(3,4-dichlorophenyl)-1,3-cyclohexanedione | 5.5 g | ClC=1C=C(C=CC1Cl)C1CC(CC(C1)=O)=O | C12H10Cl2O2
reactant | water | 300 ml | O | H2O
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 7-chloro-3-(3,4-dichlorophenyl)-3,4-dihydro-10-hydroxy-1,9(2H,-10H)-acridinedione | ClC1=CC=C2N(C=3CC(CC(C3C(C2=C1)=O)=O)C1=CC(=C(C=C1)Cl)Cl)O | C19H12Cl3NO3
